US06756378B2
A mixture of methyl 4-(4,4-difluoro-2-pyrrolidinylmethoxy)benzoate (540 mg, 1.99 mmol), 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetic acid (626 mg, 1.99 mmol), EDC.HCl (572 mg, 2.99 mmol), HOBt (cat.), and DMAP (cat.) in DMF (10 ml) was stirred overnight. The mixture was diluted with EtOAc (300 ml), washed with brine (2×100 ml), dried over MgSO4, and concntrated in vacuo. The residue was chromatographed on silica gel with CHCl3—MeOH (20:1) as eluent to give methyl 4-[4,4-difluoro-1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinylmethoxy]benzoate (1.00 g, 89%) as a colorless foam. 1H-NMR (CDCl3) δ2.31 (s, 3 H), 2.47-2.63 (m, 2 H), 3.52-3.97 (series of s and m, total 10 H), 4.07-4.30 (m, 2 H), 4.67-4.69 (m, 1 H), 6.45 (s, 1 H), 6.65 (d, J=1.7 Hz, 1 H), 6.74-6.76 (m, 1 H), 6.84 (d, J=8.8 Hz, 2 H), 7.14 (m, 2 H), 7.24 (m, 2 H), 7.52-7.54 (m, 1 H), 7.94 9d, J=8.8 Hz, 2 H), 8.09 (d, J=8.1 Hz, 1 H).

reactant | methyl 4-(4,4-difluoro-2-pyrrolidinylmethoxy)benzoate | 1.99 mmol, 540 mg | FC1(CC(NC1)COC1=CC=C(C(=O)OC)C=C1)F | C13H15F2NO3
reactant | 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetic acid | 1.99 mmol, 626 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)O | C17H18N2O4
reactant | EDC.HCl | 2.99 mmol, 572 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 ml | CCOC(=O)C | C4H8O2
product | methyl 4-[4,4-difluoro-1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinylmethoxy]benzoate | 1.00 g, 89% | FC1(CC(N(C1)C(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O)COC1=CC=C(C(=O)OC)C=C1)F | C30H31F2N3O6
